US09169249B2
2-Methylpropane-1,2-diol (1.08 g, 12.0 mmol, 1.0 equiv) in DCM (40 mL) under argon was cooled to 0° C. TEA (2.50 mL, 18.0 mmol, 1.5 equiv), DMAP (75.0 mg, 0.600 mmol, 0.05 equiv), and TBSCl (2.00 g, 13.2 mmol, 1.1 equiv) were added sequentially, and the reaction was allowed to warm up to ambient temperature overnight. Complete conversion of reactant to product was confirmed by TLC eluted with EtOAc and visualized with KMnO4. The solvent was removed in vacuo, and the residue was partitioned between water and EtOAc. The aqueous layer was extracted with EtOAc 2×, and the combined organics were dried with Na2SO4, filtered, and concentrated to provide 1-(tertbutyldimethylsilyloxy)-2-methylpropan-2-ol (2.05 g, 84%) as a light brown oil that was used without further purification.

reactant | 2-Methylpropane-1,2-diol | 12.0 mmol, 1.08 g, 1.0 equiv | CC(CO)(C)O | C4H10O2
reactant | TBSCl | 13.2 mmol, 2.00 g, 1.1 equiv | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.600 mmol, 75.0 mg, 0.05 equiv | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-(tertbutyldimethylsilyloxy)-2-methylpropan-2-ol | 2.05 g, 84% | C(C)(C)(C)[Si](OCC(C)(O)C)(C)C | C10H24O2Si
